* projext
.include TSMC_180nm.txt
.include gates.cir
.param SUPPLY=1.8
.param LAMBDA=0.09u
.global gnd vdd


VCK ck 0 PULSE(0 {SUPPLY} 2n 50p 50p 2n 4n)
Vck_mcc ck_mcc 0 PULSE(0 {SUPPLY} 4.2n 50p 50p 2n 4n) 


Va0 a0 0 PULSE(0 {SUPPLY} 1.7n 50p 50p 4n 8n)
Va1 a1 0 DC 1.8
Va2 a2 0 PULSE(0 {SUPPLY} 1.7n 50p 50p 8n 16n)
Va3 a3 0 DC 0
Va4 a4 0 DC 0

Vb0 b0 0 DC 0
Vb1 b1 0 PULSE(0 {SUPPLY} 1.7n 50p 50p 8n 16n)
Vb2 b2 0 DC 0
Vb3 b3 0 DC 1.8
Vb4 b4 0 PULSE(0 {SUPPLY} 1.7n 50p 50p 16n 32n)

Vcin cin 0 DC 1.8

.subckt tspcff D CK Q vdd gnd

.param width_N=10*LAMBDA
.param width_P=2*width_N

*stage 1
M1 X D gnd gnd CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA +2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M2 X ck a1 vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA +2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M3 a1 D vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA +2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

*stage 2

M4 a2 ck gnd gnd CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA +2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M5 Y X a2 gnd CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA +2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M6 Y ck vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA +2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

*stage 3
M7 a3 Y gnd gnd CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA +2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M8 Q_bar ck a3 gnd CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA +2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M9 Q_bar Y vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA +2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}

Xinv Q Q_bar vdd gnd inv

.ends tspcff




* input ffs

XFF_A0 a0 ck a0_l vdd gnd tspcff
XFF_A1 a1 ck a1_l vdd gnd tspcff
XFF_A2 a2 ck a2_l vdd gnd tspcff
XFF_A3 a3 ck a3_l vdd gnd tspcff
XFF_A4 a4 ck a4_l vdd gnd tspcff

XFF_B0 b0 ck b0_l vdd gnd tspcff
XFF_B1 b1 ck b1_l vdd gnd tspcff
XFF_B2 b2 ck b2_l vdd gnd tspcff
XFF_B3 b3 ck b3_l vdd gnd tspcff
XFF_B4 b4 ck b4_l vdd gnd tspcff

XFF_CIN cin ck cin_l vdd gnd tspcff

* ----------------------------------------------------------------
* Generate p_i and g_i OUTSIDE the chain (so each carry stage remains clean)
* p_i = A xor B    (xor2)
* g_i = A & B      (and2)
* ----------------------------------------------------------------
X_P0 p0 a0_l b0_l vdd gnd xor2
X_G0 g0 a0_l b0_l vdd gnd and2

X_P1 p1 a1_l b1_l vdd gnd xor2
X_G1 g1 a1_l b1_l vdd gnd and2

X_P2 p2 a2_l b2_l vdd gnd xor2
X_G2 g2 a2_l b2_l vdd gnd and2

X_P3 p3 a3_l b3_l vdd gnd xor2
X_G3 g3 a3_l b3_l vdd gnd and2

X_P4 p4 a4_l b4_l vdd gnd xor2
X_G4 g4 a4_l b4_l vdd gnd and2

.param width_N=20*LAMBDA
.param width_P=width_N
* stage -1: C0_bar at N0

Mpre0 N0 ck_mcc vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_c0 N0 cin_l nbot0 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_bot0 nbot0 ck_mcc gnd gnd CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
C_N0 N0 0 8f

Xinvc0 C0 N0 vdd gnd inv

* ---- Stage 0: C1_bar at N1 ----
Mpre1 N1 ck_mcc vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_g0 N1 g0 nbot1 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_p0 N0 p0 N1 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_bot1 nbot1 ck_mcc 0 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
C_N1 N1 0 8f

Xinvc1 C1 N1 vdd gnd inv

* ---- Stage 1: C2_bar at N2 ----
Mpre2 N2 ck_mcc vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_g1 N2 g1 nbot2 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_p1 N1 p1 N2 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_bot2 nbot2 ck_mcc 0 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
C_N2 N2 0 8f

Xinvc2 C2 N2 vdd gnd inv

* ---- Stage 2: C3_bar at N3 ----
Mpre3 N3 ck_mcc vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_g2 N3 g2 nbot3 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_p2 N2 p2 N3 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_bot3 nbot3 ck_mcc 0 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
C_N3 N3 0 8f

Xinvc3 C3 N3 vdd gnd inv

* ---- Stage 3: C4_bar at N4 ----
Mpre4 N4 ck_mcc vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_g3 N4 g3 nbot4 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_p3 N3 p3 N4 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_bot4 nbot4 ck_mcc 0 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
C_N4 N4 0 8f

Xinvc4 C4 N4 vdd gnd inv

* ---- Stage 4: C5_bar at N5 (final carry) ----
Mpre5 N5 ck_mcc vdd vdd CMOSP W={width_P}   L={2*LAMBDA}
+ AS={5*width_P*LAMBDA} PS={10*LAMBDA+2*width_P} AD={5*width_P*LAMBDA} PD={10*LAMBDA+2*width_P}
M_g4 N5 g4 nbot5 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_p4 N4 p4 N5 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
M_bot5 nbot5 ck_mcc 0 0 CMOSN W={width_N}   L={2*LAMBDA}
+ AS={5*width_N*LAMBDA} PS={10*LAMBDA+2*width_N} AD={5*width_N*LAMBDA} PD={10*LAMBDA+2*width_N}
C_N5 N5 0 10f

Xinvc5 C5 N5 vdd gnd inv




X_SUM0 sum0_raw p0 C0 vdd gnd xor2
X_SUM1 sum1_raw p1 C1 vdd gnd xor2
X_SUM2 sum2_raw p2 C2 vdd gnd xor2
X_SUM3 sum3_raw p3 C3 vdd gnd xor2
X_SUM4 sum4_raw p4 C4 vdd gnd xor2


** outputs FFs to latch sum bits

XFF_SUM0 sum0_raw ck sum0 vdd gnd tspcff
XFF_SUM1 sum1_raw ck sum1 vdd gnd tspcff
XFF_SUM2 sum2_raw ck sum2 vdd gnd tspcff
XFF_SUM3 sum3_raw ck sum3 vdd gnd tspcff
XFF_SUM4 sum4_raw ck sum4 vdd gnd tspcff
XFF_Cout C5 ck cout vdd gnd tspcff










.tran 0.1n 50n 

.control
set hcopypscolor = 1
set color0=white
set color1=black

run
set curplottitle = "cla5_mcc_final"
* plot V(sum0_raw) V(sum1_raw)+2 V(sum2_raw)+4 V(sum3_raw)+6 V(sum4_raw)+8 V(C5)+10 V(ck)+12 C(ck_mcc)+14
plot V(sum0) V(sum1)+2 V(sum2)+4 V(sum3)+6 V(sum4)+8 V(cout)+10 V(ck)+12 V(ck_mcc)+14
plot V(a4_l)+10 V(a3_l)+8 V(a2_l)+6 V(a1_l)+4 V(a0_l)+2 V(ck)
plot V(b4_l)+10 V(b3_l)+8 V(b2_l)+6 V(b1_l)+4 V(b0_l)+2 V(ck)
* plot V(C0)+12 V(C5)+10 V(C4)+8 V(C3)+6 V(C2)+4 V(C1)+2 V(ck_mcc) V(Ck)
* plot V(p4)+10 V(p3)+8 V(p2)+6 V(p1)+4 V(p0)+2 V(ck)
* plot V(g4)+10 V(g3)+8 V(g2)+6 V(g1)+4 V(g0)+2 V(ck)


.endc
.end
